US06593344B1
N-{4-[4-(6,11-Dihydro-dibenzo[b,e]thiepin-11-yliden)-piperidin-1-yl}-butyl]-5-pyridin-3-yl-pentanamide (Substance 112)
Batch size: 1.6 g (9.0 mmol) 5-(3-pyridyl)-pentanic acid, 1.6 g (9.9 mmol) CDI and 3.0 g (8.2 mmol) 4-[4-(6,11-dihydro-dibenzo-[b,e]thiepin-11-yliden)-piperidin-1-yl]-butylamine.

reactant | 5-(3-pyridyl)-pentanic acid | 9.0 mmol, 1.6 g | N1=CC(=CC=C1)CCCCC(=O)O | C10H13NO2
reactant | CDI | 9.9 mmol, 1.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-[4-(6,11-dihydro-dibenzo-[b,e]thiepin-11-yliden)-piperidin-1-yl]-butylamine | 8.2 mmol, 3.0 g | C1=CC=CC=2SCC3=C(C(C21)=C2CCN(CC2)CCCCN)C=CC=C3 | C23H28N2S
product | N-{4-[4-(6,11-Dihydro-dibenzo[b,e]thiepin-11-yliden)-piperidin-1-yl}-butyl]-5-pyridin-3-yl-pentanamide | C1=CC=CC=2SCC3=C(C(C21)=C2CCN(CC2)CCCCNC(CCCCC=2C=NC=CC2)=O)C=CC=C3 | C33H39N3OS
